US07371751B2
2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-[5-methyl-4-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-benzamide
According to the procedure described fort he synthesis of Example 96 further derivatives have been synthesised from 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-5-methyl-thiazole-4-carboxylic acid or 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-5-methyl-thiazole-4-carboxylic acid and various commercially available amines and comprise Examples 97-Example 124 below. In cases of Example 102 and 118 additionally 2 eq. NEt3 were added to the reaction mixture as amine hydrochlorides were used as starting materials.

reactant | 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-5-methyl-thiazole-4-carboxylic acid | ClC1=CC=C(C=C1)N(C=1SC(=C(N1)C(=O)O)C)C(C1=C(C=C(C=C1)Cl)Cl)=O | C18H11Cl3N2O3S
reactant | 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-5-methyl-thiazole-4-carboxylic acid | ClC1=C(C(=O)N(C=2SC(=C(N2)C(=O)O)C)C2=CC(=C(C=C2)OC)OC)C=CC(=C1)Cl | C20H16Cl2N2O5S
solvent | NEt3 | CCN(CC)CC | C6H15N
product | 2,4-Dichloro-N-(3,4-dimethoxy-phenyl)-N-[5-methyl-4-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-benzamide | ClC1=C(C(=O)N(C=2SC(=C(N2)C(=O)N2CCCC2)C)C2=CC(=C(C=C2)OC)OC)C=CC(=C1)Cl | C24H23Cl2N3O4S
